US06734324B2
Diketene (160.13 g, 1.904 mol) and a solution of N-phenyl-p-phenylenediamine (344.00 g, 1.867 mol) in 40% strength acetic acid (1300.00 g) were simultaneously added dropwise at 60° C. in the course of about 4.5 h to 40% strength acetic acid (300.00 g). After addition of the starting materials had taken place, the reaction mixture was stirred at 65° C. for 30 min and then cooled to 15° C. The resulting precipitate was filtered off on a suction filter, washed with 40% strength acetic acid (2×200 g) and with water (2×200 g) and dried at 50° C. in vacuo (20 mbar). 415.31 g (95.3% content, 79% yield) of 3-oxo-N-[4-(phenylamino)phenyl]butyramide were obtained as a light grey solid. Mp: 89.5° C.;

reactant | Diketene | 1.904 mol, 160.13 g | C=C1CC(=O)O1 | C4H4O2
reactant | N-phenyl-p-phenylenediamine | 1.867 mol, 344.00 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)N | C12H12N2
solvent | acetic acid | 300.00 g | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1300.00 g | C(C)(=O)O | C2H4O2
product | 3-oxo-N-[4-(phenylamino)phenyl]butyramide | 415.31 g, 79% yield | O=C(CC(=O)NC1=CC=C(C=C1)NC1=CC=CC=C1)C | C16H16N2O2
